US04492598
30.7 g (0.25 mole) of 2-amino-4,6-dimethylpyrimidine were dissolved in 350 ml of dichloromethane and a solution of 52 g (0.26 mole) of 7-oxabicyclo[2.2.1]hept-2-en-6-ylsulfonyl isocyanate (Diels-Alder adduct of vinylsulfonyl isocyanate and furan) in 100 ml of dichloromethane was added at 0° C. with stirring. The mixture was stirred a further 12 hours at room temperature, cooled to 0° C. and n-hexane was added. The precipitated reaction product was filtered off with suction, washed with n-hexane and dried. 73.6 g (90.8% of theory) of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-7-oxabicyclo[2.2.1]hept-2-en-6-ylsulfonamide having a melting point of 125°-145° C. were obtained.

reactant | 2-amino-4,6-dimethylpyrimidine | 0.25 mole, 30.7 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 7-oxabicyclo[2.2.1]hept-2-en-6-ylsulfonyl isocyanate | 0.26 mole, 52 g | C12C=CC(CC1S(=O)(=O)N=C=O)O2 | C7H7NO4S
reactant | n-hexane | CCCCCC | C6H14
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-7-oxabicyclo[2.2.1]hept-2-en-6-ylsulfonamide | 73.6 g, 90.8% | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1CC2C=CC1O2 | C13H16N4O4S
